US09029024B2
15.0 g (83.2 mmol) of 4-hydroxy-3-tert-butylanisole and 10.5 g (104 mmol) of triethylamine were dissolved in 250 ml of dimethyl carbonate (solvent), and 11.9 g (104 mmol) of methanesulfonyl chloride was dropwise added thereto, taking 25 minutes and controlling the inner temperature at 5° C. or lower. After the addition, this was stirred at 25° C. for 1.5 hours, the reaction mixture was poured into an aqueous saturated sodium bicarbonate solution, the aqueous layer was separated, the organic layer was washed twice with water, and then the organic layer was separated and concentrated. The concentrate was purified through distillation (139° C./32 pa) to give 16.3 g of 2-tert-butyl-4-methoxyphenyl methanesulfonate (yield, 76%).

reactant | 4-hydroxy-3-tert-butylanisole | 83.2 mmol, 15.0 g | OC1=C(C=C(C=C1)OC)C(C)(C)C | C11H16O2
reactant | triethylamine | 104 mmol, 10.5 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 104 mmol, 11.9 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethyl carbonate | 250 ml | C(OC)(OC)=O | C3H6O3
product | 2-tert-butyl-4-methoxyphenyl methanesulfonate | 16.3 g, 76% | CS(=O)(=O)OC1=C(C=C(C=C1)OC)C(C)(C)C | C12H18O4S
